US06794403B2
Step a) 2-Bromo-4-methoxy-6-{[4-methoxy-3-(trifluoromethyl)benzoyl]amino}phenyl 4-methoxy-3-(trifluoromethyl)benzoate
The title compound was prepared in substantially the same manner as described in Example 20, Step c, from 2-amino-6-bromo-4-methoxyphenol and 4-methoxy-3-trifluoromethyl benzoyl chloride. The product was obtained as an off-white solid, m.p. 205-208° C.; MS m/e 622 (M+H)+.

reactant | 2-amino-6-bromo-4-methoxyphenol | NC1=C(C(=CC(=C1)OC)Br)O | C7H8BrNO2
reactant | 4-methoxy-3-trifluoromethyl benzoyl chloride | COC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H6ClF3O2
product | 2-Bromo-4-methoxy-6-{[4-methoxy-3-(trifluoromethyl)benzoyl]amino}phenyl 4-methoxy-3-(trifluoromethyl)benzoate | COC1=C(C=C(C(=O)OC2=C(C=C(C=C2NC(C2=CC(=C(C=C2)OC)C(F)(F)F)=O)OC)Br)C=C1)C(F)(F)F | C25H18BrF6NO6
